US09290454B2
4-Fluoroaniline (98 mg, 0.884 mmol, 1.0 equiv.) was added to a stirred mixture of methyl 4-bromo-2-(7-methoxy-2,7-dioxoheptyl)benzoate (328 mg, 0.884 mmol) in acetic acid (1 mL) and the mixture was stirred at 100° C. for 90 min. After cooling to room temperature, the excess solvent was concentrated, diluted with water and extracted with EtOAc (2×5 mL). The organic layer was dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0-10% EtOAc/hexanes to give 193 mg of methyl 5-(6-bromo-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate as a yellow oil.

reactant | 4-Fluoroaniline | 0.884 mmol, 98 mg, 1.0 equiv. | FC1=CC=C(N)C=C1 | C6H6FN
reactant | methyl 4-bromo-2-(7-methoxy-2,7-dioxoheptyl)benzoate | 0.884 mmol, 328 mg | BrC1=CC(=C(C(=O)OC)C=C1)CC(CCCCC(=O)OC)=O | C16H19BrO5
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | methyl 5-(6-bromo-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 193 mg | BrC=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CCCCC(=O)OC | C21H19BrFNO3
